US06610641B2
1,4,7-tris(pyrrole-2ylmethyl)-1,4,7-triazacyclononane was prepared according to procedure B using TACN and pyrrole-2-carboxaldehyde as starting material.

reactant | 1,4,7-triazacyclononane | N1CCNCCNCC1 | C6H15N3
reactant | pyrrole-2-carboxaldehyde | N1C(=CC=C1)C=O | C5H5NO
product | 1,4,7-tris(pyrrole-2ylmethyl)-1,4,7-triazacyclononane | N1C(=CC=C1)CN1CCN(CCN(CC1)CC=1NC=CC1)CC=1NC=CC1 | C21H30N6
